US04731368
Step C: Preparation of 6-Aminothieno[3,2-b]pyridine
A suspension of 6-acetamidothieno[3,2-b]pyridine (2.29 g, 12 mmol) in ethanol (35 ml) and concentrated hydrochloric acid (15 ml) was warmed at 80° C. for two hours. This mixture was diluted with water and made basic by the addition of sodium hydroxide solution. The product was extracted into methylene chloride, dried over anhydrous sodium sulfate and then filtered through a pad of charcoal and the solvent was evaporated to give pure product (1.36 g, 76% yield), m.p. 121°-123° C.

reactant | 6-acetamidothieno[3,2-b]pyridine | 12 mmol, 2.29 g | C(C)(=O)NC=1C=C2C(=NC1)C=CS2 | C9H8N2OS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | O | H2O
product | 6-Aminothieno[3,2-b]pyridine | 1.36 g, 76% yield | NC=1C=C2C(=NC1)C=CS2 | C7H6N2S
